US07547729B2
1-(2,4,5-Trimethylphenyl)-3-(4-hydroxy-3,5-dimethylphenyl)prop-2-en-1-one
This compound was synthesized from 2′,4′,5′-trimethylacetophenone and 3,5-dimethyl-4-hydroxybenzaldehyde according to general method 1 described earlier.

reactant | 2′,4′,5′-trimethylacetophenone | CC1=C(C=C(C(=C1)C)C)C(C)=O | C11H14O
reactant | 3,5-dimethyl-4-hydroxybenzaldehyde | CC=1C=C(C=O)C=C(C1O)C | C9H10O2
product | 1-(2,4,5-Trimethylphenyl)-3-(4-hydroxy-3,5-dimethylphenyl)prop-2-en-1-one | CC1=C(C=C(C(=C1)C)C)C(C=CC1=CC(=C(C(=C1)C)O)C)=O | C20H22O2
